US07772183B2
Prepared by way of method I using 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene (100 mg, 0.175 mmol) and 3,4-methylenedioxybenzoyl chloride (65 μL, 0.35 mmol). The final trituration (diethyl ether/hexane) and filtration gave 44 mg (35%) of 18-(3,4-methylenedioxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene as a white powder: 98.6% pure (HPLC), MS m/z 717 (M+H)+, HRMS: calcd. 717.2806 and found 717.2789 (M+H)+, mp 153-155° C.

reactant | 18-hydroxy-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo[14.3.0.04,6]-nonadec-7-ene | 0.175 mmol, 100 mg | OC1CN2C(C(CCCCCC=CC3CC3(NC(C2C1)=O)C(=O)NS(=O)(=O)C1CC1)NC(=O)OC(C)(C)C)=O | C26H40N4O8S
reactant | 3,4-methylenedioxybenzoyl chloride | 0.35 mmol, 65 μL | C1OC=2C=C(C(=O)Cl)C=CC2O1 | C8H5ClO3
product | 18-(3,4-methylenedioxybenzoyloxy)-14-tert-butoxycarbonylamino-4-cyclopropylsulfonylaminocarbonyl-2,15-dioxo-3,16-diazatricyclo-[14.3.0.04,6]-nonadec-7-ene | 44 mg, 35% | C1OC=2C=C(C(=O)OC3CN4C(C(CCCCCC=CC5CC5(NC(C4C3)=O)C(=O)NS(=O)(=O)C3CC3)NC(=O)OC(C)(C)C)=O)C=CC2O1 | C34H44N4O11S
